US07579140B2
5.1 Preparation of 5-methoxy-2,3,3-trimethyl-3H-indole
To 4-methoxyphenyl hydrazine hydrochloride (4.84 g) was added 3-methyl-2-butanone (6.4 ml) and acetic acid (45 ml). The mixture was heated to 100° C. for 2.5 hours after which time the solvent was removed by rotary evaporation. Flash column chromatography gave the product (4.66 g).

reactant | 4-methoxyphenyl hydrazine hydrochloride | 4.84 g | Cl.COC1=CC=C(C=C1)NN
reactant | 3-methyl-2-butanone | 6.4 ml | CC(C(C)=O)C | C5H10O
solvent | acetic acid | 45 ml | C(C)(=O)O | C2H4O2
product | 5-methoxy-2,3,3-trimethyl-3H-indole | 4.66 g | COC=1C=C2C(C(=NC2=CC1)C)(C)C | C12H15NO
